US07211597B2
ethyl (6-hydroxy-1-oxo-1,2,3,4-tetrahydronaphthalen-2-yl)(oxo)acetate
To 6-hydroxy-1-tetralone (10.4 g, 0.064 mol) and ethyl oxalate (17.4 mL, 0.128 mol) in THF (100 mL) was added dropwise lithium bis(trimethylsilyl)amide (1M in THF, 130 mL). The slurry was stirred overnight and a solid was filtered. The solid was dissolved in water and made acidic to pH 2.5 with 3 N HCl, precipitating a waxy solid. The waxy solid was extracted into EtOAc, dried (MgSO4), and concentrated in vacuo leaving a dark solid (15.7 g). The solid was purified by chromatography on silica gel, eluting with 15% EtOAc/hexanes to give a yellow solid (5.9 g). The solid was recrystallized from EtOAc/hexanes to give the product as a yellow solid, 3.7 g (22% yield). FABHRMS m/z 263.0925 (M+H, C14H15O5 requires 263.0919). 1H NMR (CDCl3/300 MHz) 7.93 (d, 1H); 6.80 (d of d, 1H); 6.68 (s, 1H); 5.72 (s, 1H); 4.39 (q, 2H); 3.00-2.75 (m, 4H); 1.40 (t, 3H).

reactant | 6-hydroxy-1-tetralone | 0.064 mol, 10.4 g | OC=1C=C2CCCC(C2=CC1)=O | C10H10O2
reactant | ethyl oxalate | 0.128 mol, 17.4 mL | C(C(=O)[O-])(=O)OCC
reactant | lithium bis(trimethylsilyl)amide | 1M, 130 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | ethyl (6-hydroxy-1-oxo-1,2,3,4-tetrahydronaphthalen-2-yl)(oxo)acetate | 15.7 g | OC=1C=C2CCC(C(C2=CC1)=O)C(C(=O)OCC)=O | C14H14O5
